US04434175
A mixture of 1.1 g of 1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)pyrrole-2-acetic acid, 0.52 g of N-acetyl aminoethanol, 1.05 g DCC and 0.21 g of N,N-dimethylaminopyridine in 75 ml dry CH2Cl2 was stirred at ambient temperature for 16 hours, concentrated and extracted twice with 10 ml portions of CH2Cl2. The crude product is crystallized from ethyl acetate to yield 0.96 g (70% yield) of acetamidoethyl-1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)pyrrole-2-acetate.

reactant | 1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)pyrrole-2-acetic acid | 1.1 g | CN1C(=CC(=C1C(=O)C=1N(C(=CC1)SC)C)C)CC(=O)O | C15H18N2O3S
reactant | N-acetyl aminoethanol | 0.52 g | C(C)(=O)NC(C)O | C4H9NO2
reactant | DCC | 1.05 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | acetamidoethyl-1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)pyrrole-2-acetate | 0.96 g, 70% yield | C(C)(=O)NCCOC(CC=1N(C(=C(C1)C)C(=O)C=1N(C(=CC1)SC)C)C)=O | C19H25N3O4S
